US05051361
3-carbethoxy-3'-azido-3'-deoxythymidine (AZT-3-A-OEt)
A solution of 267 mg AZT in 1 ml DMPU was treated with 500 ul of sodium methoxide solution (4.4M NaOMe, in MeOH) and 250 ul of ethyl bromoacetate and stirred 30 minutes at room temperature. Another 500 ul NaOMe solution and 250 ul ethyl bromoacetate were added and the mixture was heated 1 hourat 60° C. in a water bath. The resulting suspension was diluted with15 ml deionized water and extracted with EtOAc. The organic phase was washed, first with 5% NaHCO3 then saturated NaCl solution, concentrated under reduced pressure and chromatographed by preparative TLCon silica gel-F 2000 um using the solvent system CHCl3 /MeOH/HOAc (95+5+0.5). Three bands were visualized with UV (254 nm) and were eluted separately with MeOH. Fraction A (Rf =0.19) was identified as AZT by TLC and UV spectrum by comparison with an authentic AZT reference. It was also immunologically active in an AZT assay by FPIA. Fractions P (Rf =0.37) and C (Rf =0.57) had similar UV spectra, resembling that of 3-methylthymidine. Fraction B was immunologically active (approximately 110% "cross-reactivity" relative to AZT in an AZT assay by FPIA). FractionC was immunologically inactive. Fraction B was therefore evaporated to dryness and saved.

reactant | AZT | 267 mg | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
reactant | sodium methoxide | 4.4M, 500 ul | C[O-].[Na+]
reactant | ethyl bromoacetate | 250 ul | BrCC(=O)OCC | C4H7BrO2
reactant | NaOMe | 500 ul | C[O-].[Na+]
reactant | ethyl bromoacetate | 250 ul | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | DMPU | 1 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 3-carbethoxy-3'-azido-3'-deoxythymidine | C(=O)(OCC)N1C(N([C@H]2C[C@@H]([C@@H](CO)O2)N=[N+]=[N-])C=C(C1=O)C)=O | C13H17N5O6
